US06069109
Synthesis of Tetrahydroindenylzirconium trispivalate
To a solution of bis(tetrahydroindenyl)zirconium dichloride (1.182 g, 2.950 mmol) and pivalic acid (0.900 g,8.810 mmol) in toluene (45 ml) at 25° C. was added triethylamine (0.871 g, 8.610 mmol) with stirring. A white precipaitate formed immediately which was removed by filtration. The title compound was isolated as a pale-yellow powder in 75% yield by evaporating the solvent under vacuum. The title compound such prepared exhibit purity above 98% based on NMR results. 1H NMR (toluene-d8)δ 6.24 (t, J=3.1 Hz, 1H), 5.85 (d, J-3.1 Hz, 2H), 2.72 (m, 2H), 2.48 (m, 2H), 1.91 (m, 2H), 1.49 (m, 2H), 1.14 (s, 27H0. 13C NMR (toluene-d8) δ 200 and 197 (CO2), 114.4 and 114.1 (Cp), 39.2 (CMe3), 26.48 (CH3), 23.8 and 22.7 (CH2).

reactant | bis(tetrahydroindenyl)zirconium dichloride | 2.950 mmol, 1.182 g | [Cl-].[Cl-].C1(CCC2CC=CC=C12)[Zr+2]C1CCC2CC=CC=C12
reactant | pivalic acid | 8.810 mmol, 0.900 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | triethylamine | 8.610 mmol, 0.871 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
product | Tetrahydroindenylzirconium trispivalate | 75% yield | C(C(C)(C)C)(=O)[O-].C(C(C)(C)C)(=O)[O-].C(C(C)(C)C)(=O)[O-].C1(CCC2CC=CC=C12)[Zr+3] | InChI=1S/C9H11.3C5H10O2.Zr/c1-2-5-9-7-3-6-8(9)4-1;3*1-5(2,3)4(6)7;/h1-2,4,6,9H,3,5,7H2;3*1-3H3,(H,6,7);/q;;;;+3/p-3
